wheatstone_bridge - fault test
V1 pos 0 DC 20
R1 pos mid1 6.996355
R3 mid1 0 197.112048
R2 pos mid2 149.108304
R4 mid2 0 296.892002
Rg mid1 mid2 50.426094
.op
.control
run
print v(mid1) v(mid2) v(pos)
print @r1[i] @r3[i] @r2[i] @r4[i] @rg[i]
.endc
.end
